US07498338B2
2-(pyrrolidin-1-ylsulfonyl)phenol
To a solution of 4-tert-butyl-2-methoxybenzenesulfonyl chloride (258 mg, 0.99 mmol) in DMF (6 ml) was added pyrrolidine (70 mg, 0.99 mmol) and the solution was stirred at ambient temperature for 30 minutes, and concentrated in vacuo. The residue was dissolved in xylene (10 ml) and then added to mixture of AlCl3 (525 mg, 3.39 mmol) in xylene (5 ml). The resulting mixture was stirred for 18 h at 70° C. After colling the mixture was poured into stirred ice-cold water, and extracted with ether (2×30 ml). The ether layer was dried over sodium sulfate, filtered and concentrated to give 120 mg of subtitle compound.

reactant | 4-tert-butyl-2-methoxybenzenesulfonyl chloride | 0.99 mmol, 258 mg | C(C)(C)(C)C1=CC(=C(C=C1)S(=O)(=O)Cl)OC | C11H15ClO3S
reactant | pyrrolidine | 0.99 mmol, 70 mg | N1CCCC1 | C4H9N
reactant | AlCl3 | 3.39 mmol, 525 mg | [Al+3].[Cl-].[Cl-].[Cl-]
solvent | DMF | 6 ml | CN(C)C=O | C3H7NO
solvent | xylene | 5 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-(pyrrolidin-1-ylsulfonyl)phenol | 120 mg | N1(CCCC1)S(=O)(=O)C1=C(C=CC=C1)O | C10H13NO3S
